US04409220
6-Ethyl-2-amino-6,7-dihydro-5H-pyrrolo[3,4-b]pyrazine
This compound was prepared analogous to Example 22 from 1-ethyl-2,5-dihydro-3,4-bis(trimethylsilyloxy)-pyrrole and α-amino-acetamidine dihydrochloride.

reactant | 1-ethyl-2,5-dihydro-3,4-bis(trimethylsilyloxy)-pyrrole | C(C)N1CC(=C(C1)O[Si](C)(C)C)O[Si](C)(C)C | C12H27NO2Si2
reactant | α-amino-acetamidine dihydrochloride | Cl.Cl.NCC(=N)N
product | 6-Ethyl-2-amino-6,7-dihydro-5H-pyrrolo[3,4-b]pyrazine | C(C)N1CC2=NC(=CN=C2C1)N | C8H12N4
